US08217032B2
Dissolve (2-hydroxy-6-methoxy-naphthalen-1-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (12 g, 29.6 mmol) in tetrahydrofuran (200 Add lithium aluminum hydride (3.0 g, 78.0 mmol) and heat the reaction to reflux. Allow to cool to room temperature and add ice. Adjust the pH of the mixture to 7 with 5 M hydrochloric acid. Dilute with water (500 mL). Wash the mixture four times with dichloromethane (500 mL each wash). Combine the organics, dry over sodium sulfate, decant, and concentrate in vacuo to give 1-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-methoxy-naphthalen-2-ol.

reactant | (2-hydroxy-6-methoxy-naphthalen-1-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 29.6 mmol, 12 g | OC1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C25H27NO4
reactant | lithium aluminum hydride | 78.0 mmol, 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | 1-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-methoxy-naphthalen-2-ol | OC(C1=C(C=CC2=CC(=CC=C12)OC)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C25H29NO4
